US05200406
A) Isobutyl (4S)-4-isobutyl-5-oxo-2-imidazolidinepropanoate
L-Leucinamide hydrochloride (3.2 g, 19.2 mmol) and isobutyl 4-oxobutanoate (3 g, 18.96 mmol) were reacted together according to the procedure of example 5A to give the title compound, 1.7 g (33%).

reactant | L-Leucinamide hydrochloride | 19.2 mmol, 3.2 g | Cl.N[C@@H](CC(C)C)C(=O)N
reactant | isobutyl 4-oxobutanoate | 18.96 mmol, 3 g | O=CCCC(=O)OCC(C)C | C8H14O3
product | Isobutyl (4S)-4-isobutyl-5-oxo-2-imidazolidinepropanoate | C(C(C)C)[C@@H]1NC(NC1=O)CCC(=O)OCC(C)C | C14H26N2O3
